US06384041B1
To a solution of 187 mg (0.417 mmol) of [[2-(methylthio)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester in 5 mL of chloroform was added 0.11 mL of oxalyl chloride followed by 0.05 mL of pyridine. The mixture was stirred for 2 days then quenched into 4.0 mL of dilute ammonium hydroxide. The product was extracted into 5.0 mL of methylene chloride. The organic phase was dried with sodium sulfate and concentrated to 500 mg of yellow oil. The residue was purified by flash chromatography (5 g of silica, ethyl acetate) to provide 240 mg of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as an oil. nmr (300 MHz, CDCl3) δ0.82 (t, 3H), 2.52 (s, 3H), 2.59 (q, 2H), 3.77 (s, 3H), 5.00 (s, 2H), 5.40 (s, 2H), 5.68 (s, 1H), 6.54 (s, 1H), 6.85 (d, 1H), 7.1-7.6 (m, J=6.7, 8H)

reactant | [[2-(methylthio)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.417 mmol, 187 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=C(C=CC=C2)C2=CC=CC=C2)=O | C25H25N3O3S
reactant | oxalyl chloride | 0.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.05 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 240 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2C(C(=O)N)=O)CC)CC2=C(C=CC=C2)C2=CC=CC=C2)=O | C27H26N4O5S
